US05750531
Step 1: 6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine
In accordance with the same procedure as in Step 1 of Example 1, except that 6-methyl-2,4-dichloropyrimidine (6.52 g, 40 mmol), 1-methyl-1,2,3,4-tetrahydroisoquinoline (6.6 g, 44 mmol), triethylamine(6.8 ml, 48.8 mmol) and N,N-dimethylformamide(30 ml) were used as starting materials, 5.5 g of the titled compound was prepared. (Yield: 50.2%)

reactant | 6-methyl-2,4-dichloropyrimidine | 40 mmol, 6.52 g | CC1=CC(=NC(=N1)Cl)Cl | C5H4Cl2N2
reactant | 1-methyl-1,2,3,4-tetrahydroisoquinoline | 44 mmol, 6.6 g | CC1NCCC2=CC=CC=C12 | C10H13N
reactant | triethylamine | 48.8 mmol, 6.8 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 5.5 g, Yield: 50.2% | CC1=CC(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C | C15H16ClN3
